US08084620B2
Step 2 A mixture of 1,3-dibromo-2-methylbenzene (340 mg, 1.359 mmol), 3,4-dihydroisoquinolin-1(2H)-one (100 mg, 0.679 mmol) and potassium carbonate (94 mg, 0.679 mmol) in DMSO (2 mL) was purged with nitrogen, treated with copper (I) iodide (25.9 mg, 0.136 mmol) and heated at 150° C. for 3.5 h. The mixture was combined with that from a second reaction using 1,3-dibromo-2-methylbenzene (2.59 g, 10.36 mmol) and 3,4-dihydroisoquinolin-1(2H)-one (508 mg, 3.45 mmol), diluted with DCM and filtered through Celite. The filtrate was washed with 5% aqueous ammonium hydroxide, dried and concentrated. The residue was purified by column chromatography (eluting with hexane-EtOAc) to provide 2-(3-bromo-2-methylphenyl)-3,4-dihydroisoquinolin-1(2H)-one as a yellow solid (142 mg, 11%). 1H NMR (400 MHz, chloroform-d) δ 8.15 (1H, dd, J=7.70, 1.10 Hz), 7.55 (1H, dd, J=7.92, 1.10 Hz), 7.46-7.51 (1H, m), 7.37-7.42 (1H, m), 7.24-7.28 (1H, m), 7.17-7.21 (1H, m), 7.09-7.16 (1H, m), 3.95 (1H, ddd, J=12.21, 10.12, 4.73 Hz), 3.73 (1 H, ddd, J=11.94, 6.33, 5.28 Hz), 3.26 (1H, ddd, J=15.74, 10.23, 5.28 Hz), 3.06-3.14 (1H, m), 2.36 (3H, s). Mass spectrum m/z 316, 318 (M+H)+.

reactant | 1,3-dibromo-2-methylbenzene | 1.359 mmol, 340 mg | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | 3,4-dihydroisoquinolin-1(2H)-one | 0.679 mmol, 100 mg | C1(NCCC2=CC=CC=C12)=O | C9H9NO
reactant | potassium carbonate | 0.679 mmol, 94 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromo-2-methylbenzene | 10.36 mmol, 2.59 g | BrC1=C(C(=CC=C1)Br)C | C7H6Br2
reactant | 3,4-dihydroisoquinolin-1(2H)-one | 3.45 mmol, 508 mg | C1(NCCC2=CC=CC=C12)=O | C9H9NO
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | copper (I) iodide | 0.136 mmol, 25.9 mg | [Cu]I
product | 2-(3-bromo-2-methylphenyl)-3,4-dihydroisoquinolin-1(2H)-one | 142 mg, 11% | BrC=1C(=C(C=CC1)N1C(C2=CC=CC=C2CC1)=O)C | C16H14BrNO
